US06521754B2
N-(4-Methoxy-7-phenoxy-benzothiazol-2-yl)-benzamide
Using 4-Methoxy-7-phenoxy-benzothiazol-2-ylamine and benzoyl chloride the title compound was obtained crude, which was chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2/EtOAc (1:1), to afford the pure title compound as a white solid (72% yield), MS: m/e=376.1 (M+).

reactant | 4-Methoxy-7-phenoxy-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)OC2=CC=CC=C2 | C14H12N2O2S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(4-Methoxy-7-phenoxy-benzothiazol-2-yl)-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)OC2=CC=CC=C2 | C21H16N2O3S
